US05585385
A mixture of 2-(2-aminobenzoyl)pyridine (4.36 g), diethyl malonate (3.92 ml) and 1,9-diazabicyclo[5.4.0]-7-undecene(0.5 ml) was heated for 3 hours at 180° C. The reaction mixture was cooled to give ethyl ester of 1,2-dihydro-2-oxo-4-(2-pyridyl)-3-quinolinecarboxylic acid as crystals (6.1 g: unrefined). The crystalline product was dissolved in DMF (100 ml), to which sodium hydride (60% oily) (1.5 g) was added, and the mixture was stirred for one hour at room temperature. The mixture was cooled to 0° C., to which was added, while stirring, iodomethane (10 ml). The mixture was stirred for one hour at room temperature, which was then concentrated. To the concentrate was added ethyl acetate. The mixture was washed with water and dried. The solvent was then distilled off. The residue was purified by means of a silica-gel column chromatography (ethyl acetate) to give ethyl eater of 1,2-dihydro-1-methyl-2-oxo-4-(2-pyridyl)-3-quinoline carboxylic acid as pale yellow crystals (2.6 g).

reactant | 2-(2-aminobenzoyl)pyridine | 4.36 g | NC1=C(C(=O)C2=NC=CC=C2)C=CC=C1 | C12H10N2O
reactant | diethyl malonate | 3.92 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 1,2-dihydro-2-oxo-4-(2-pyridyl)-3-quinolinecarboxylic acid | O=C1NC2=CC=CC=C2C(=C1C(=O)O)C1=NC=CC=C1 | C15H10N2O3
